US04623662
A mixture of 12.5 g of 3-methoxyphenylacetic acid, 21.2 g of 2-chlorobenzylamine, 15.1 g of triethylamine, 19.3 ml of borontrifluoride etherate, and 500 ml of toluene was stirred under reflux for 18 hours using a Dean-Stark moisture trap and allowed to cool. The mixture was extracted with aqueous sodium hydroxide, dilute hydrochloric acid, and water. The remaining organic solution was then evaporated and the residue crystallized from hexane to yield N-(2-chlorobenzyl)-3-methoxyphenylacetamide as a yellow solid, m.p. 89°-91° C.

reactant | 3-methoxyphenylacetic acid | 12.5 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
reactant | 2-chlorobenzylamine | 21.2 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | triethylamine | 15.1 g | C(C)N(CC)CC | C6H15N
reactant | borontrifluoride etherate | 19.3 ml | B(F)(F)F.CCOCC
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-chlorobenzyl)-3-methoxyphenylacetamide | ClC1=C(CNC(CC2=CC(=CC=C2)OC)=O)C=CC=C1 | C16H16ClNO2
